US05891889
Step C: Preparation of Benzyl N-tert-butoxycarbonyl-4-(3-methyl-benzyl)isonipecotate
To a cold (-78° C.) solution of benzyl N-tert-butoxycarbonyl-isonipecotate (8.02 g, 25.11 mmol) in anhydrous THF (80 mL), a solution of sodium bis(trimethysilyl)amide (35 mL, 35 mmol; 1M) in THF was added over a period of 10 min. The resulting orange solution was stirred at -78° C. for 1 h. and then treated dropwise with 3-methylbenzyl bromide (4.1 mL, 30.6 mmol). The reaction mixture was allowed to warm to room temp., and stirred overnight. The reaction was quenched with saturated aqueous ammonium chloride, diluted with water, and extracted with ethyl acetate. The organic extracts were combined, washed with brine, and concentrated under vacuum. The residual oil was subjected to column chromatography on silica eluting with 20% ethyl acetate in hexane. Collection and concentration of appropriate fractions provided the title product.

reactant | benzyl N-tert-butoxycarbonyl-isonipecotate | 25.11 mmol, 8.02 g | C(C)(C)(C)OC(=O)N1CCC(C(=O)OCC2=CC=CC=C2)CC1 | C18H25NO4
reactant | sodium bis(trimethysilyl)amide | 35 mmol, 1M, 35 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 3-methylbenzyl bromide | 30.6 mmol, 4.1 mL | CC=1C=C(CBr)C=CC1 | C8H9Br
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | Benzyl N-tert-butoxycarbonyl-4-(3-methyl-benzyl)isonipecotate | C(C)(C)(C)OC(=O)N1CCC(C(=O)OCC2=CC=CC=C2)(CC1)CC1=CC(=CC=C1)C | C26H33NO4
